US08686004B2
Stage 2: N-({6-[2-(Pyridin-3-yl)-1,3-thiazol-5-yl]pyridin-2-yl}sulphonyl)acetamide
N-[(6-Bromopyridin-2-yl)sulphonyl]acetamide (0.112 g, 0.4 mmol), 3-(1,3-thiazol-2-yl)pyridine (0.065 g, 0.4 mmol, prepared by the methods described in WO 2010/006713), dichloro{bis[di-tert-butyl(hydroxy)phosphoranyl]}palladium (0.006 g, 0.012 mmol) and caesium carbonate (0.26 g, 0.8 mmol) were stirred in 10 ml of N,N-dimethylformamide at 120° C. under argon for 16 h. After cooling, the solvent was removed under reduced pressure and the residue was chromatographed (silica gel, dichloromethane/methanol eluent). This gave 0.024 g (15% of theory) of N-({6-[2-(pyridin-3-yl)-1,3-thiazol-5-yl]pyridin-2-yl}sulphonyl)acetamide.

reactant | N-[(6-Bromopyridin-2-yl)sulphonyl]acetamide | 0.4 mmol, 0.112 g | BrC1=CC=CC(=N1)S(=O)(=O)NC(C)=O | C7H7BrN2O3S
reactant | 3-(1,3-thiazol-2-yl)pyridine | S1C(=NC=C1)C=1C=NC=CC1 | C8H6N2S
reactant | caesium carbonate | 0.8 mmol, 0.26 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | dichloro{bis[di-tert-butyl(hydroxy)phosphoranyl]}palladium | 0.012 mmol, 0.006 g | Cl[Pd](P(C(C)(C)C)(C(C)(C)C)O)(P(O)(C(C)(C)C)C(C)(C)C)Cl
product | N-({6-[2-(Pyridin-3-yl)-1,3-thiazol-5-yl]pyridin-2-yl}sulphonyl)acetamide | N1=CC(=CC=C1)C=1SC(=CN1)C1=CC=CC(=N1)S(=O)(=O)NC(C)=O | C15H12N4O3S2
